US05972965
A solution of 1-hydroxy-1,2,3,4-tetrahydro-5-methoxycarbonylmethoxynaphthalene (0.42 g) and Lawesson's reagent (0.40 g) in toluene (4 ml) was refluxed under N2 atmosphere for 1 hour. The reaction mixture was purified by chromatography on silica gel to give 1-mercapto-1,2,3,4-tetrahydro-5-methoxycarbonylmethoxynaphthalene (0.20 g). A solution of 1-mercapto-1,2,3,4-tetrahydro-5-methoxycarbonylmethoxynaphthalene (0.26 g), (4,5-diphenyloxazol-2-yl)methyl bromide (0.32 g) and potassium carbonate (0.14 g) in DMF (5 ml) was stirred for 6 hours at room temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give 1-[(4,5-diphenyloxazol-2-yl)methylthio]-1,2,3,4-tetrahydro-5-methoxycarbonylmethoxynaphthalene (0.29 g). MS (m/z): 486 (M+ +1) NMR (CDCl3, δ): 1.75-1.92 (1H, m), 2.00-2.22 (3H, m), 2.45-2.72 (1H, m), 2.80-3.02 (1H, m), 3.79 (3H, s), 3.91 (1H, s), 3.94 (1H, s), 4.36 (1H, m), 4.60 (2H, s), 6.50-6.55 (1H, m), 7.04-7.06 (2H, m), 7.33-7.40 (6H, m), 7.59-7.68 (4H, m)

reactant | 1-mercapto-1,2,3,4-tetrahydro-5-methoxycarbonylmethoxynaphthalene | 0.26 g | SC1CCCC2=C(C=CC=C12)OCC(=O)OC | C13H16O3S
reactant | (4,5-diphenyloxazol-2-yl)methyl bromide | 0.32 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CBr | C16H12BrNO
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[(4,5-diphenyloxazol-2-yl)methylthio]-1,2,3,4-tetrahydro-5-methoxycarbonylmethoxynaphthalene | 0.29 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CSC1CCCC2=C(C=CC=C12)OCC(=O)OC | C29H27NO4S
